US06737382B1
N-(5-Iodo-4-trifluoromethylthiazol-2-yl)-4-trifluoromethylbenzamide (0.8 g), powdered sodium hydroxide (0.29 g), tetrakis(triphenylphosphine)-palladium(0) (0.2 g) and 4-fluorophenylboronic acid (0.24 g) were mixed together in tetrahydrofuran (30 ml). The resulting suspension was refluxed for 8 hr with stirring. The solvent was removed under reduced pressure and the residue was mixed with water then extracted with chloroform. The chloroform layer was dried over magnesium chloride and the solvent was removed under reduced pressure. The solid remained was recrystallized from methanol to give N-(5-(4-fluorophenyl)-4-trifluoromethylthiazol-2-yl)-4-trifluoromethylbenzamide as slightly gray needles (0.55 g), m. p. 203-205° C.

reactant | N-(5-Iodo-4-trifluoromethylthiazol-2-yl)-4-trifluoromethylbenzamide | 0.8 g | IC1=C(N=C(S1)NC(C1=CC=C(C=C1)C(F)(F)F)=O)C(F)(F)F | C12H5F6IN2OS
reactant | sodium hydroxide | 0.29 g | [OH-].[Na+]
reactant | 4-fluorophenylboronic acid | 0.24 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.2 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-(5-(4-fluorophenyl)-4-trifluoromethylthiazol-2-yl)-4-trifluoromethylbenzamide | FC1=CC=C(C=C1)C1=C(N=C(S1)NC(C1=CC=C(C=C1)C(F)(F)F)=O)C(F)(F)F | C18H9F7N2OS
